US07498335B2
1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-phenethylurea
Using an analogous procedure to that described in Example 3, phenethyl isocyanate was reacted with 4-amino-6methoxy-7-(N-methylpiperidin4ylmethoxy)quinazoline to give the title compound; NMR Spectrum: (CDCl3) 1.48 (m, 2H), 1.98 (m, 5H), 2.29 (s, 3H), 2.91 (m, 4H), 3.7 (q, 2H), 4.02 (d, 5H), 7.28 (m, partially obscured by CHCl3 peak), 8.47 (s, 1H), 8.65 (s, 1H), 10.1 (s, 1H); Mass Spectrum: M+H+ 450.

reactant | phenethyl isocyanate | C(CC1=CC=CC=C1)N=C=O | C9H9NO
reactant | 4-amino-6methoxy-7-(N-methylpiperidin4ylmethoxy)quinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H22N4O2
product | 1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-phenethylurea | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)NC(=O)NCCC1=CC=CC=C1 | C25H31N5O3
